US06897231B2
A. Methyl 4-[N-(1-acetyl-3-phenyl-1H-indazol-5-yl)carbamoyl]benzoate
To a flask containing 1-acetyl-5-amino-3-phenyl-1H-indazole (300 mg, 1.2 mmol) was added dichloromethane (10 mL), 4-(dimethylamino)pyridine (75 mg, 0.6 mmol) and triethylamine (180 mg, 1.8 mmol). The mixture was allowed to stir for ten minutes. Terephthalic acid monomethyl ester hydrochloride (285 mg, 1.44 mmol) was then added and stirring continued for 18 hours. The mixture was quenched with 5% sodium bicarbonate and extracted with dichloromethane. The extracts were dried using sodium sulfate, filtered and condensed to give a solid. The solid was recrystallized in ethanol to give the title compound (368 mg, 75%/; yield). ES-MS (m/z) 414 [M+1]+.

reactant | 1-acetyl-5-amino-3-phenyl-1H-indazole | 1.2 mmol, 300 mg | C(C)(=O)N1N=C(C2=CC(=CC=C12)N)C1=CC=CC=C1 | C15H13N3O
reactant | triethylamine | 1.8 mmol, 180 mg | C(C)N(CC)CC | C6H15N
reactant | Terephthalic acid monomethyl ester hydrochloride | 1.44 mmol, 285 mg | Cl.COC(C1=CC=C(C(=O)O)C=C1)=O
catalyst | 4-(dimethylamino)pyridine | 0.6 mmol, 75 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Methyl 4-[N-(1-acetyl-3-phenyl-1H-indazol-5-yl)carbamoyl]benzoate | 368 mg, 75% | C(C)(=O)N1N=C(C2=CC(=CC=C12)NC(=O)C1=CC=C(C(=O)OC)C=C1)C1=CC=CC=C1 | C24H19N3O4
